US05238837
In a mixed solvent of 15 ml pyridine and 120 ml of methylene chloride was dissolved methyl 22-hydroxydocosanoate (1.70 g, 4.59 mmoles). p-toluenesulfonyl chloride (1.75 g, 9.18 mmoles) was gradually added to the obtained solution under ice-cooled condition, over a period of 1 hour, and the mixture was stirred for 14 hours in a refrigerator. Then, p-toluenesulfonyl chloride (1.75 g, 9.18 mmoles) was added to the reaction mixture, and reaction was effected for 24 hours. After the completion of reaction, the reaction mixture was treated in the same manner as in Reference Example 1, to give methyl 22-tosyloxydocosanoate (2.28 g, 75%) having the following properties.

reactant | methyl 22-hydroxydocosanoate | 4.59 mmoles, 1.70 g | OCCCCCCCCCCCCCCCCCCCCCC(=O)OC | C23H46O3
reactant | p-toluenesulfonyl chloride | 9.18 mmoles, 1.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 9.18 mmoles, 1.75 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | methyl 22-tosyloxydocosanoate | 2.28 g, 75% | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCCCCCCCCCCCCCC(=O)OC | C30H52O5S
